US08980909B2
to a vigorously stirred solution of N-hydroxyphthalimide (10.0 g, 61.4 mmol) in CH2Cl2 (70 mL) and dioxane (80 mL) was added dihydropyran (6.16 mL, 67.6 mmol) and p-toluenesulfonic acid (200 mg). The resulting solution was stirred overnight at room temperature. The reaction was quenched by slow addition of saturated NaHCO3 (100 mL). After separation, the organic layer was washed with brine and dried over Na2SO4. Solvent removal under vacuum yielded 13.4 g (88%) of 2-(tetrahydro-2H-pyran-2-yloxy)isoindoline-1,3-dione as a white solid.

reactant | N-hydroxyphthalimide | 61.4 mmol, 10.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | dihydropyran | 67.6 mmol, 6.16 mL | O1CCCC=C1 | C5H8O
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(tetrahydro-2H-pyran-2-yloxy)isoindoline-1,3-dione | 13.4 g, 88% | O1C(CCCC1)ON1C(C2=CC=CC=C2C1=O)=O | C13H13NO4
